US04333934
1.0 ml of concentrated hydrochloric acid was added to a suspension of 2.0 g of 2-hydroxymethyl-5-ethyl-imidazo-[1,2-a]-quinoxaline-4(5H)-one in 40 ml of hot methanol and the solution was filtered hot. The filtrate was extracted with 20 ml of ethyl acetate and the organic phase was cooled to 0° C. and filtered to obtain 2.0 g of 2-hydroxymethyl-5-ethyl-imidazo-[1,2-a]-quinoxaline-4(5H)-one hydrochloride in the form of colorless crystals melting at 224°-226° C.

reactant | hydrochloric acid | 1.0 ml | Cl | ClH
reactant | 2-hydroxymethyl-5-ethyl-imidazo-[1,2-a]-quinoxaline-4(5H)-one | 2.0 g | OCC=1N=C2N(C3=CC=CC=C3N(C2=O)CC)C1 | C13H13N3O2
solvent | methanol | 40 ml | CO | CH4O
product | 2-hydroxymethyl-5-ethyl-imidazo-[1,2-a]-quinoxaline-4(5H)-one hydrochloride | 2.0 g | Cl.OCC=1N=C2N(C3=CC=CC=C3N(C2=O)CC)C1 | InChI=1S/C13H13N3O2.ClH/c1-2-15-10-5-3-4-6-11(10)16-7-9(8-17)14-12(16)13(15)18;/h3-7,17H,2,8H2,1H3;1H
